US08349880B2
Step C (2): 10% Palladium on carbon (1.5 g, 14.1 mmol) was added under an atmosphere of nitrogen to a chilled (ice-water bath) solution of 1-(2-fluoro-4-nitrophenyl)-5-methyl-1H-1,2,4-triazole (3.7 g, 17 mmol) dissolved in methanol (200 mL). The flask was repeatedly evacuated and flushed with hydrogen gas (double balloon). The resulting mixture was allowed to warm to rt and left to stir for 18 h under the hydrogen atmosphere. The vessel was subsequently purged with nitrogen gas. The crude reaction mixture was filtered through a short plug of diatomaceous earth (Celite®). The reaction vessel and Celite® were rinsed with fresh methanol. The combined filtrates were concentrated in vacuo. The residue was dried under high vacuum to afford 3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)aniline (3.14 g, 91% yield) as a blackish/grey solid. LC-MS (M+H)+ 193.1. 1H NMR (500 MHz, chloroform-d) δ ppm 7.91 (s, 1 H) 7.14 (t, J=8.55 Hz, 1 H) 6.43-6.53 (m, 2 H) 4.04 (br. s., 2 H) 2.36 (s, 3 H).

reactant | 1-(2-fluoro-4-nitrophenyl)-5-methyl-1H-1,2,4-triazole | 17 mmol, 3.7 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N1N=CN=C1C | C9H7FN4O2
catalyst | Palladium on carbon | 14.1 mmol, 1.5 g | [Pd] | Pd
solvent | methanol | 200 mL | CO | CH4O
product | 3-fluoro-4-(5-methyl-1H-1,2,4-triazol-1-yl)aniline | 3.14 g, 91% yield | FC=1C=C(N)C=CC1N1N=CN=C1C | C9H9FN4
